US07842688B2
a) Benzyl 3-[3-(2-carboxyethoxy)-4-methylbenzyloxy]-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate
The mixture of 0.527 g of benzyl 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}-3-[3-(2-methoxycarbonylethoxy)-4-methylbenzyloxy]piperidine-1-carboxylate, 20 ml of diisopropyl ether, 0.20 ml of dimethyl sulphoxide and 100 ml of pH 7.0 phosphate buffer is admixed with 15 ml of Novozyme 398 (Novo Nordisk) and stirred at 35° C. over 120 hours. The reaction mixture is extracted repeatedly with tetrahydrofuran and the organic phases are concentrated by evaporation. The title compound is obtained as a slightly yellowish oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.10 (1:1 EtOAc-heptane); Rt=5.57.

reactant | benzyl 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}-3-[3-(2-methoxycarbonylethoxy)-4-methylbenzyloxy]piperidine-1-carboxylate | 0.527 g | COC1=C(COCCCOC2=CC=C(C=C2)C2C(CN(CC2)C(=O)OCC2=CC=CC=C2)OCC2=CC(=C(C=C2)C)OCCC(=O)OC)C=CC=C1 | C42H49NO9
reactant | diisopropyl ether | 20 ml | C(C)(C)OC(C)C | C6H14O
reactant | phosphate | 100 ml, pH 7.0 | P(=O)([O-])([O-])[O-]
solvent | dimethyl sulphoxide | 0.20 ml | CS(=O)C | C2H6OS
product | Benzyl 3-[3-(2-carboxyethoxy)-4-methylbenzyloxy]-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | C(=O)(O)CCOC=1C=C(COC2CN(CCC2C2=CC=C(C=C2)OCCCOCC2=C(C=CC=C2)OC)C(=O)OCC2=CC=CC=C2)C=CC1C | C41H47NO9
